US08470841B2
N-{3-[4-(6-Benzyloxypyridazin-3-yloxy)phenyl]-1-methylpropyl}acetamide
3-Benzyloxy-6-chloropyridazine (411 mg, 1.86 mmol) was reacted with N-[3-(4-hydroxyphenyl)-1-methylpropyl]acetamide in analogy to example 1b.

reactant | 3-Benzyloxy-6-chloropyridazine | 1.86 mmol, 411 mg | C(C1=CC=CC=C1)OC=1N=NC(=CC1)Cl | C11H9ClN2O
reactant | N-[3-(4-hydroxyphenyl)-1-methylpropyl]acetamide | OC1=CC=C(C=C1)CCC(C)NC(C)=O | C12H17NO2
product | N-{3-[4-(6-Benzyloxypyridazin-3-yloxy)phenyl]-1-methylpropyl}acetamide | C(C1=CC=CC=C1)OC1=CC=C(N=N1)OC1=CC=C(C=C1)CCC(C)NC(C)=O | C23H25N3O3
